US05162360
n-BuLi (2.2 M, 24.3 mL, 53.5 mmol) was added dropwise to a cooled (-78° C.) slurry of tetradecyne (10.3 g, 52.7 mmol) in anhydrous ether (60 mL) at a rate not allowing the temperature to rise above -40° C. The resulting slurry was stirred (5 minutes, 70° C.), then phenyl cyanate (6.9 g, 58.0 mmol) was added dropwise at a rate not allowing the temperature to rise above -60° C. The resulting slurry was stirred (45 minutes, -78° C.) then warmed (25° C.). The resulting solution was diluted with ether (140 mL), washed with 1.5 N NaOH (2×100 mL), washed with brine (1×100 mL), then dried (MgSO4), and concentrated in vacuo. The resulting oil was chromatographed on silica (pentane to 95:5 pentane:ether) to yield 9.0 g (77.8%) of 2-pentadecynenitrile as a pale yellow liquid.

reactant | n-BuLi | 53.5 mmol, 2.2 M, 24.3 mL | [Li]CCCC
reactant | tetradecyne | 52.7 mmol, 10.3 g | C#CCCCCCCCCCCCC | C14H26
reactant | phenyl cyanate | 58.0 mmol, 6.9 g | C1(=CC=CC=C1)OC#N | C7H5NO
solvent | ether | 60 mL | CCOCC | C4H10O
solvent | ether | 140 mL | CCOCC | C4H10O
product | 2-pentadecynenitrile | 9.0 g, 77.8% | C(C#CCCCCCCCCCCCC)#N | C15H25N
